US08067408B2
2-Chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluoro-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]benzamide
345(c) The 1,1-dimethylethyl (2S)-4-[(5′-{[({2-chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluorophenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate was dissolved in 2 mL of dioxane:MeOH (3:1). Three drops of HCl (concentrated) were added to the resultant solution and heated at 60° C. for 1 h. The solution was applied to the amine column, rinsed with 10 mL of dioxane:MeOH (3:1) to afford 63.0 mg (75.4%) the title compound. LC-MS m/z 837 (M+H)+, 1.29 min (ret time).

reactant | 1,1-dimethylethyl (2S)-4-[(5′-{[({2-chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluorophenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | ClC1=C(C=C(C(=C1)F)S(=O)(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)F | C47H57ClF2N8O6S
solvent | dioxane MeOH | 2 mL | O1CCOCC1.CO
catalyst | HCl | Three drops | Cl | ClH
product | 2-Chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluoro-N-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]benzamide | 63.0 mg, 75.4% | ClC1=C(C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)C=C(C(=C1)F)S(=O)(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C42H49ClF2N8O4S
